US09029536B2
F) 1-Ethyl-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-1H-pyrazolo[3,4-b]pyrazine
To a solution of 4-(1-ethyl-1H-pyrazolo[3,4-b]pyrazin-3-yl)phenol (100 mg) and 3-methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine (88 mg) in DMF (3 mL) was added NaH (60% in oil, 17 mg) at room temperature, and the mixture was heated at 150° C. for 1.5 h under microwave irradiation. The mixture was poured into water and extracted with AcOEt. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (AcOEt/hexane) and recrystallized from AcOEt/hexane to give the title compound (98 mg).

reactant | 4-(1-ethyl-1H-pyrazolo[3,4-b]pyrazin-3-yl)phenol | 100 mg | C(C)N1N=C(C=2C1=NC=CN2)C2=CC=C(C=C2)O | C13H12N4O
reactant | 3-methyl-2-(methylsulfonyl)-3H-imidazo[4,5-b]pyridine | 88 mg | CN1C(=NC=2C1=NC=CC2)S(=O)(=O)C | C8H9N3O2S
reactant | NaH | 17 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-Ethyl-3-{4-[(3-methyl-3H-imidazo[4,5-b]pyridin-2-yl)oxy]phenyl}-1H-pyrazolo[3,4-b]pyrazine | 98 mg | C(C)N1N=C(C=2C1=NC=CN2)C2=CC=C(C=C2)OC2=NC=1C(=NC=CC1)N2C | C20H17N7O
